US04689327
A mixture of 1.19 g of N,O-diacetyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboximidic acid, 20 ml of ethanol, 0.287 g of sodium hydroxide, 2.7 ml of water and 20 ml of tetrahydrofuran is stirred for 1.5 hours under ice-cooling. The mixture is neutralized with 10% hydrochloric acid, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried and then concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, ethyl acetate:chloroform=5:1). The eluate is concentrated under reduced pressure to remove solvent, and the residue is recrystallized from a mixture of ethyl acetate and n-hexane. 0.72 g of N-acetyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide is obtained.

reactant | N,O-diacetyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboximidic acid | 1.19 g | C(C)(=O)N=C(OC(C)=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC=CC=C1 | C26H32N4O4S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.287 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 2.7 ml | O | H2O
product | N-acetyl-2-{2-[2-(4-phenylpiperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 0.72 g, Yield: 66.1% | C(C)(=O)NC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC=CC=C1 | C24H30N4O3S
